US09445594B2
Preparation of 3-bromo-1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazole (C1)
3-Bromo-1-(4-isopropoxyphenyl)-1H-1,2,4-triazole (7.15 g, 48.3 mmol), copper(I) iodide (1.25 g, 6.56 mmol), cesium carbonate (18.9 g, 58.0 mmol), and 1-iodo-4-(trifluoromethyl)benzene (8.29 g, 30.5 mmol) were added to dimethylsulfoxide (50 mL) and the solution was degassed with nitrogen for 10 minutes. The solution was heated at 100° C. for 20 hours. After cooling to room temperature, the reaction mixture was diluted with ethyl acetate and filtered through Celite®. The resulting filter cake was rinsed with additional ethyl acetate (100 mL). Saturated aqueous ammonium chloride was added to the filtrate which was then stirred for 30 minutes. The layers were separated and the aqueous layer was extracted with ethyl acetate (2×50 mL). The combined organic extracts were dried over anhydrous magnesium sulfate and concentrated onto Celite®. Purification by silica gel chromatography using 0-100% ethyl acetate/hexanes as eluent provided the title compound as a white solid (5.64 g, 64%): mp 87-89° C.; 1H NMR (400 MHz, CDCl3) δ 8.53 (s, 1H), 7.85-7.77 (m, 4H); ESIMS m/z 292.0 ([M+H]+).

reactant | 3-Bromo-1-(4-isopropoxyphenyl)-1H-1,2,4-triazole | 48.3 mmol, 7.15 g | BrC1=NN(C=N1)C1=CC=C(C=C1)OC(C)C | C11H12BrN3O
reactant | cesium carbonate | 58.0 mmol, 18.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-iodo-4-(trifluoromethyl)benzene | 30.5 mmol, 8.29 g | IC1=CC=C(C=C1)C(F)(F)F | C7H4F3I
catalyst | copper(I) iodide | 6.56 mmol, 1.25 g | [Cu]I
solvent | dimethylsulfoxide | 50 mL | CS(=O)C | C2H6OS
product | 3-bromo-1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazole | 5.64 g, 64% | BrC1=NN(C=N1)C1=CC=C(C=C1)C(F)(F)F | C9H5BrF3N3
